US07897762B2
A mixture of the above 5-(chloromethyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine HCl (3.5 g, 16.3 mmol) and 4-fluoro-3-nitroaniline (41.5 mL, 0.3 mol) in pyridine (150 mL) was stirred at 50° C. for 8 h. The reaction mixture was concentrated in vacuo to afford a crude product which was washed with H2O and dried to give 5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine (3.3 g, 60% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.83 (m, 1 H), 7.62 (s, 1 H), 7.30 (t, J=9.2 Hz, 1 H), 7.20 (m, 1 H), 6.98 (m, 1 H), 6.81 (s, 1 H), 5.98 (s, 1 H), 4.14 (s, 2 H), 3.69 (s, 3 H), 3.30 (s, 3H), 2.89 (d, J=4.8 Hz, 3 H); MS (ESI) m/z: 336.2 (M+H+)

reactant | 5-(chloromethyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine HCl | 16.3 mmol, 3.5 g | Cl.ClCC=1C(=CC(=NC1)N(C)OC)NC
reactant | 4-fluoro-3-nitroaniline | 0.3 mol, 41.5 mL | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 5-((4-fluoro-3-nitrophenylamino)methyl)-N2-methoxy-N2,N4-dimethylpyridine-2,4-diamine | 3.3 g, 60% yield | FC1=C(C=C(C=C1)NCC=1C(=CC(=NC1)N(C)OC)NC)[N+](=O)[O-] | C15H18FN5O3
